US06440995B1
(RS)-3-(6-Hydroxy-2-phenyl-quinolin-4-ylamino)-propane-1,2-diol hydrochloride
The title compound, m.p. 303-304° C., and MS: m/e=310 (M+), was prepared from 4-chloro-2-phenyl-quinolin-6-ol and (RS)-3-amino-1,2-propandiol.

reactant | 4-chloro-2-phenyl-quinolin-6-ol | ClC1=CC(=NC2=CC=C(C=C12)O)C1=CC=CC=C1 | C15H10ClNO
reactant | (RS)-3-amino-1,2-propandiol | NCC(CO)O | C3H9NO2
product | (RS)-3-(6-Hydroxy-2-phenyl-quinolin-4-ylamino)-propane-1,2-diol hydrochloride | Cl.OC=1C=C2C(=CC(=NC2=CC1)C1=CC=CC=C1)NCC(CO)O | InChI=1S/C18H18N2O3.ClH/c21-11-14(23)10-19-18-9-17(12-4-2-1-3-5-12)20-16-7-6-13(22)8-15(16)18;/h1-9,14,21-23H,10-11H2,(H,19,20);1H
